US07652125B2
121.9 g of 3-bromo-1,1′-biadamantane (349 mmol), 9.58 g of 1,3-dihydroxybenzene (87.0 mmol), 25 mL of toluene and a stirrer were charged in a 300 mL recovery flask. The mixture was heated and agitated at 130° C. for 24 hours under nitrogen flow. A solid was obtained by removing a solvent under reduced pressure. The obtained solid was purified by column chromatography, thus obtaining 37.4 g of 4,6-di[3-(1-adamantyl)-(1-adamantyl)]-1,3-dihydroxybenzene (57.8 mmol; the yield was 66.4%).

reactant | 3-bromo-1,1′-biadamantane | 349 mmol, 121.9 g | BrC12CC3(CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C20H29Br
reactant | 1,3-dihydroxybenzene | 87.0 mmol, 9.58 g | OC1=CC(=CC=C1)O | C6H6O2
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4,6-di[3-(1-adamantyl)-(1-adamantyl)]-1,3-dihydroxybenzene | 37.4 g, yield was 66.4% | C12(CC3CC(CC(C1)C3)C2)C23CC1(CC(CC(C2)C1)C3)C3=C(C=C(C(=C3)C31CC2(CC(CC(C3)C2)C1)C12CC3CC(CC(C1)C3)C2)O)O | C46H62O2
